data/polar.json
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:8][CH2:17][c:18]1[c:11]([CH3:26])[cH:12][nH:15][c:13]1[CH3:10].[N:1]1([S:3][C:14]([F:4])([F:5])[F:6])[S:2](=[O:19])(=[O:20])[c:7]2[c:22]([cH:21][cH:9][cH:23][cH:25]2)[C:24]1=[O:16]>>[N:1]1=[C:24]([O-:16])[c:22]2[c:7]([cH:25][cH:23][cH:9][cH:21]2)[S:2]1(=[O:19])=[O:20].[S:3]([CH:12]1[C:11]([CH3:26])=[C:18]([CH2:17][CH3:8])[C:13]([CH3:10])=[NH+:15]1)[C:14]([F:4])([F:5])[F:6]", "epd": [["LP-/Pi+", [15], [13, 15]], ["Pi-/Pi+", [18, 13], [11, 18]], ["Pi-/Sigma+", [12, 11], [12, 3]], ["Sigma-/Pi+", [3, 1], [1, 24]], ["Pi-/LP+", [24, 16], [16]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[N+:2](=[N-:12])=[N-:13].[cH:1]1[cH:8][cH:3][c:4]2[c:9]([o+:5][c:7](-[c:17]3[cH:14][cH:10][cH:18][cH:11][cH:15]3)[cH:6][cH:16]2)[cH:19]1>>[cH:1]1[cH:8][cH:3][c:4]2[c:9]([cH:19]1)[O:5][C:7]([c:17]1[cH:14][cH:10][cH:18][cH:11][cH:15]1)=[CH:6][CH:16]2[N-:12][N+:2]#[N:13]", "epd": [["LP-/Pi+", [13], [2, 13]], ["Pi-/Sigma+", [12, 2], [12, 16]], ["Pi-/Pi+", [16, 6], [6, 7]], ["Pi-/LP+", [7, 5], [5]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:6][C:37]1=[C:39]([Cl:30])[C:9](=[O:14])[C:8](=[O:13])[C:40]([Cl:31])=[C:38]1[Cl:7].[cH:1]1[cH:19][cH:25][c:33]([N:21]2[C:3](=[C:22]([c:2]3[cH:11][cH:34][cH:4][cH:35][cH:12]3)[O:5][CH3:36])[N:10]([c:44]3[cH:17][cH:28][cH:24][cH:29][cH:18]3)[N:41]=[C:27]2[c:23]2[cH:42][cH:15][cH:32][cH:16][cH:43]2)[cH:26][cH:20]1>>[cH:1]1[cH:19][cH:25][c:33](-[n:21]2[c:3]([C:22]([c:2]3[cH:11][cH:34][cH:4][cH:35][cH:12]3)([O:5][CH3:36])[C:8]3([O-:13])[C:9](=[O:14])[C:39]([Cl:30])=[C:37]([Cl:6])[C:38]([Cl:7])=[C:40]3[Cl:31])[n+:10](-[c:44]3[cH:17][cH:28][cH:24][cH:29][cH:18]3)[n:41][c:27]2-[c:23]2[cH:42][cH:15][cH:32][cH:16][cH:43]2)[cH:26][cH:20]1", "epd": [["LP-/Pi+", [10], [3, 10]], ["Pi-/Sigma+", [22, 3], [22, 8]], ["Pi-/LP+", [8, 13], [13]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[C:3]1(=[O:5])[N-:4][CH2:22][CH2:23][O:14]1.[O:1]=[S:30](=[O:2])([c:17]1[cH:7][cH:12][c:21]([CH3:31])[cH:13][cH:8]1)[n:24]1[cH:16][c:19]([N+:18](=[O:9])[O-:10])[c:20]2[cH:11][cH:26][c:15]([N+:29](=[O:27])[O-:28])[cH:6][c:25]21>>[O:1]=[S:30](=[O:2])([c:17]1[cH:7][cH:12][c:21]([CH3:31])[cH:13][cH:8]1)[N:24]1[CH:16]([N:4]2[C:3](=[O:5])[O:14][CH2:23][CH2:22]2)[C:19](=[N+:18]([O-:9])[O-:10])[c:20]2[cH:11][cH:26][c:15]([N+:29](=[O:27])[O-:28])[cH:6][c:25]21", "epd": [["LP-/Sigma+", [4], [4, 16]], ["Pi-/Pi+", [16, 19], [19, 18]], ["Pi-/LP+", [18, 9], [9]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:5][c:6]2[c:24]([cH:13][cH:25]1)[CH:23]=[CH:3][CH:22]2[Li:7].[cH:2]1[cH:12][cH:4][c:8]2[c:14]([o+:9][c:11](-[c:20]3[cH:17][cH:15][cH:21][cH:16][cH:18]3)[cH:10][cH:19]2)[cH:26]1>>[Li+:7].[cH:1]1[cH:5][c:6]2[c:24]([cH:13][cH:25]1)[CH:23]=[CH:3][CH:22]2[CH:19]1[c:8]2[cH:4][cH:12][cH:2][cH:26][c:14]2[O:9][C:11]([c:20]2[cH:17][cH:15][cH:21][cH:16][cH:18]2)=[CH:10]1", "epd": [["Sigma-/Sigma+", [22, 7], [22, 19]], ["Pi-/Pi+", [19, 10], [10, 11]], ["Pi-/LP+", [11, 9], [9]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:7]1[o:22][n:15][c:9]2[c:12]3[n+:6]([O-:16])[o:2][n:18][c:14]3[c:17]([N+:5]([O-:20])=[O:23])[cH:10][c:27]12.[cH:3]1[c:21]2[cH:19][cH:28][c:25]([S-:8])[cH:13][c:26]2[cH:11][cH:4][cH:24]1>>[O-:1][n+:7]1[o:22][n:15][c:9]2[c:27]1[CH:10]([S:8][c:25]1[cH:13][c:26]3[cH:11][cH:4][cH:24][cH:3][c:21]3[cH:19][cH:28]1)[C:17](=[N+:5]([O-:20])[O-:23])[c:14]1[c:12]-2[n+:6]([O-:16])[o:2][n:18]1", "epd": [["LP-/Sigma+", [8], [8, 10]], ["Pi-/Pi+", [10, 17], [17, 5]], ["Pi-/LP+", [5, 23], [23]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[c:1]1([N:18]=[C:6]=[S:9])[cH:20][cH:10][c:7]([N+:19](=[O:2])[O-:8])[cH:11][cH:21]1.[cH:3]1[cH:12][c:15]([S-:17])[cH:13][cH:4][c:14]1[O:16][CH3:5]>>[c:1]1([N:18]=[C:6]([S-:9])[S:17][c:15]2[cH:12][cH:3][c:14]([O:16][CH3:5])[cH:4][cH:13]2)[cH:20][cH:10][c:7]([N+:19](=[O:2])[O-:8])[cH:11][cH:21]1", "epd": [["LP-/Sigma+", [17], [17, 6]], ["Pi-/LP+", [6, 9], [9]]]}
